### PR TITLE
[Merged by Bors] - feat(LinearAlgebra): totally nonnegative matrices

### PR DESCRIPTION
**Pull request by sqrt-of-2**
Define totally nonnegative matrices and add a basic API.

A matrix is totally nonnegative if all its finite minors have nonnegative determinant.

From RealRooted

Co-authored-by: Yaël Dillies <yael.dillies@gmail.com>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Set/Finite/Range.lean [hunk 1]
```diff
@@ -104,4 +104,15 @@ lemma Finite.exists_subset_finite_image_eq {f : α → β} {s : Set α} {u : Set
   let g' (x : u) : α := g x.property
   exact ⟨range g', fun a ha ↦ by aesop, finite_range _, by aesop⟩
 
+/-- If two injective functions from a finite domain have different ranges, then the range of the
+first contains an element not in the range of the second. -/
+lemma _root_.Function.Injective.exists_not_mem_range_of_range_ne {α γ : Type*} [Finite α]
+    {f g : α → γ} (hf : Function.Injective f) (hg : Function.Injective g)
+    (h : range f ≠ range g) : ∃ i, f i ∉ range g := by
```
Comment (YaelDillies) [inline Mathlib/Data/Set/Finite/Range.lean]: Surely this is still true?
```suggestion
    {f g : α → γ} (hf : Function.Injective f) (h : range f ≠ range g) : ∃ i, f i ∉ range g := by
```

File: Mathlib/LinearAlgebra/Matrix/Determinant/TotallyNonneg.lean [hunk 2]
```diff
@@ -0,0 +1,75 @@
...
+  by_cases h_range : Set.range rows = Set.range cols
+  · simp [hrows.eq_of_range_eq hcols h_range, submatrix_one cols hcols.injective]
+  · obtain ⟨i, hi⟩ : ∃ i : Fin n, rows i ∉ Set.range cols :=
+      hrows.injective.exists_not_mem_range_of_range_ne hcols.injective h_range
+    have : ∀ j, rows i ≠ cols j := by grind
+    simp [det_eq_zero_of_row_eq_zero i, this]
+
+lemma IsTotallyNonneg.smul {M : Matrix ι ι R}
+    (hM : M.IsTotallyNonneg) {c : R} (hc : 0 ≤ c) :
+    (c • M).IsTotallyNonneg := by
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/Matrix/Determinant/TotallyNonneg.lean:70]: Can you show the iff version assuming `0 < c`

File: Mathlib/LinearAlgebra/Matrix/Determinant/TotallyNonneg.lean [hunk 3]
```diff
@@ -0,0 +1,83 @@
...
+  intro _ rows cols hrows hcols
+  change 0 ≤ (c • M.submatrix rows cols).det
+  grind [det_smul, mul_nonneg, pow_nonneg, hM _]
+
+theorem IsTotallyNonneg.smul_iff {R : Type*} [CommRing R] [LinearOrder R] [IsStrictOrderedRing R]
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/Matrix/Determinant/TotallyNonneg.lean]:
```suggestion
theorem isTotallyNonneg_smul_iff {R : Type*} [CommRing R] [LinearOrder R] [IsStrictOrderedRing R]
```

**Review by YaelDillies — APPROVED** [review]
I have written the original version of this code.

maintainer merge?

**Comment by sqrt-of-2** [comment]
-awaiting-author

File: Mathlib/Data/Finset/Sort.lean [hunk 4]
```diff
@@ -272,6 +272,15 @@ theorem orderEmbOfFin_unique' {s : Finset α} {k : ℕ} (h : s.card = k) {f : Fi
     (hfs : ∀ x, f x ∈ s) : f = s.orderEmbOfFin h :=
   RelEmbedding.ext <| funext_iff.1 <| orderEmbOfFin_unique h hfs f.strictMono
 
+/-- Two strictly monotone functions are equal provided that their ranges are equal, assuming the
+type of order automorphisms of the domain is a subsingleton. -/
+lemma _root_.StrictMono.eq_of_range_eq {α β : Type*} [LinearOrder α] [Preorder β]
```
Comment (Vierkantor) [inline Mathlib/Data/Finset/Sort.lean]: Why did this lemma end up in this file? I don't see any finiteness mentioned in the statement. Can't it for example live in `Mathlib/Order/Hom/Set.lean`?

File: Mathlib/LinearAlgebra/Matrix/Determinant/TotallyNonneg.lean [hunk 5]
```diff
@@ -0,0 +1,83 @@
...
+    simp [det_eq_zero_of_row_eq_zero i, this]
+
+lemma IsTotallyNonneg.smul {M : Matrix ι ι R}
+    (hM : M.IsTotallyNonneg) {c : R} (hc : 0 ≤ c) :
+    (c • M).IsTotallyNonneg := by
+  intro _ rows cols hrows hcols
+  change 0 ≤ (c • M.submatrix rows cols).det
+  grind [det_smul, mul_nonneg, pow_nonneg, hM _]
+
+theorem IsTotallyNonneg_smul_iff {R : Type*} [CommRing R] [LinearOrder R] [IsStrictOrderedRing R]
```
Comment (Vierkantor) [inline Mathlib/LinearAlgebra/Matrix/Determinant/TotallyNonneg.lean]: The last bit of a theorem name should be lower cased:
```suggestion
theorem isTotallyNonneg_smul_iff {R : Type*} [CommRing R] [LinearOrder R] [IsStrictOrderedRing R]
```

File: Mathlib/LinearAlgebra/Matrix/Determinant/TotallyNonneg.lean [hunk 6]
```diff
@@ -0,0 +1,83 @@
...
+    (1 : Matrix ι ι R).IsTotallyNonneg := by
+  intro n rows cols hrows hcols
+  by_cases h_range : Set.range rows = Set.range cols
+  · simp [hrows.eq_of_range_eq hcols h_range, submatrix_one cols hcols.injective]
+  · obtain ⟨i, hi⟩ : ∃ i : Fin n, rows i ∉ Set.range cols :=
+      hrows.injective.exists_not_mem_range_of_range_ne h_range
+    have : ∀ j, rows i ≠ cols j := by grind
+    simp [det_eq_zero_of_row_eq_zero i, this]
+
+lemma IsTotallyNonneg.smul {M : Matrix ι ι R}
```
Comment (Vierkantor) [inline Mathlib/LinearAlgebra/Matrix/Determinant/TotallyNonneg.lean:68]: A corollary of this result and `IsTotallyNonnegOne` would be that `diagonal fun _ => a` is totally nonnegative if `a` is nonnegative. And we could generalize that to `diagonal f` being totally nonnegative if any entry of `f` is nonnegative. Do you have plans to add statements like that in a follow-up PR?

File: Mathlib/LinearAlgebra/Matrix/Determinant/TotallyNonneg.lean (hunk 5 above)
Comment (vlad902) [reply Mathlib/LinearAlgebra/Matrix/Determinant/TotallyNonneg.lean]: You can also drop most of these parameters, they are already included in variable blocks

File: Mathlib/Data/Set/Finite/Range.lean [hunk 7]
```diff
@@ -104,4 +104,14 @@ lemma Finite.exists_subset_finite_image_eq {f : α → β} {s : Set α} {u : Set
   let g' (x : u) : α := g x.property
   exact ⟨range g', fun a ha ↦ by aesop, finite_range _, by aesop⟩
 
+/-- If an injective function from a finite domain has a different range from another function, then
+the range of the first contains an element not in the range of the second. -/
+lemma _root_.Function.Injective.exists_not_mem_range_of_range_ne {α γ : Type*} [Finite α]
```
Comment (vlad902) [inline Mathlib/Data/Set/Finite/Range.lean]: ditto, \a and \g can be similarly dropped.

File: Mathlib/Data/Finset/Sort.lean (hunk 4 above)
Comment (Vierkantor) [reply Mathlib/Data/Finset/Sort.lean]: I reread this comment and it comes across as annoyed, without meaning to. Sorry about that! I meant to say: "I would have expected this lemma to be in `Mathlib/Order/Hom/Set.lean`. If that is not possible, could you explain why?"

File: Mathlib/LinearAlgebra/Matrix/Determinant/TotallyNonneg.lean (hunk 5 above)
Comment (sqrt-of-2) [reply Mathlib/LinearAlgebra/Matrix/Determinant/TotallyNonneg.lean]: @vlad902 

I'm afraid removing the local `{R : Type*}` will trigger a `linter.overlappingInstances` warning, but perhaps that's not what you were suggesting?

The surrounding variable block has `{R : Type*} [PartialOrder ι] [PartialOrder κ] [CommRing R] [PartialOrder R]`.

File: Mathlib/LinearAlgebra/Matrix/Determinant/TotallyNonneg.lean (hunk 6 above)
Comment (sqrt-of-2) [reply Mathlib/LinearAlgebra/Matrix/Determinant/TotallyNonneg.lean:68]: Yes, happy to do that in a follow-up.

**Comment by sqrt-of-2** [comment]
-awaiting-author

File: Mathlib/LinearAlgebra/Matrix/Determinant/TotallyNonneg.lean (hunk 5 above)
Comment (vlad902) [reply Mathlib/LinearAlgebra/Matrix/Determinant/TotallyNonneg.lean]: Ach you're right, sorry. I had not tested this and didn't notice this

Comment (j-loreaux) [inline Mathlib/LinearAlgebra/Matrix/Determinant/TotallyNonneg.lean]:
```suggestion
theorem isTotallyNonneg_smul_iff {R : Type*} [CommRing R] [LinearOrder R] [IsStrictOrderedRing R]
```

**Review by j-loreaux — COMMENTED** [review]
otherwise I think this is fine.

**Comment by sqrt-of-2** [comment]
-awaiting-author

File: Mathlib/Data/Set/Finite/Range.lean [hunk 8]
```diff
@@ -104,4 +104,14 @@ lemma Finite.exists_subset_finite_image_eq {f : α → β} {s : Set α} {u : Set
...
 
+/-- If an injective function from a finite domain has a different range from another function, then
+the range of the first contains an element not in the range of the second. -/
+lemma _root_.Function.Injective.exists_not_mem_range_of_range_ne [Finite α]
+    {f g : α → γ} (hf : Function.Injective f) (h : range f ≠ range g) : ∃ i, f i ∉ range g := by
+  classical
+  have := Fintype.ofFinite α
+  by_contra! h_sub
+  have : range f ⊆ range g := range_subset_iff.mpr h_sub
+  grind [eq_of_subset_of_card_le, card_range_of_injective, Fintype.card_range_le]
```
Comment (ocfnash) [inline Mathlib/Data/Set/Finite/Range.lean:115]: I think a better lemma here might be:
```suggestion
lemma _root_.Function.Injective.range_eq_range_iff_subset [Finite α]
    {f g : α → γ} (hf : Function.Injective f) :
    range f = range g ↔ range f ⊆ range g := by
  refine ⟨fun h ↦ by rw [h], fun h ↦ ?_⟩
  classical
  have := Fintype.ofFinite α
  replace hf : Fintype.card (range g) ≤ Fintype.card (range f) := by
    rw [card_range_of_injective hf]
    apply Fintype.card_range_le
  rw [eq_of_subset_of_card_le h hf]
```
What do you think?

**Review by ocfnash — APPROVED** [review]
I have one suggestion about an API lemma but otherwise this LGTM.

File: Mathlib/Data/Set/Finite/Range.lean (hunk 8 above)
Comment (sqrt-of-2) [reply Mathlib/Data/Set/Finite/Range.lean]: Looks good.

Golfed it slightly:

```
lemma _root_.Function.Injective.range_eq_range_iff_subset [Finite α]
    {f g : α → γ} (hf : Function.Injective f) :
    range f = range g ↔ range f ⊆ range g := by
  classical
  have := Fintype.ofFinite α
  grind [eq_of_subset_of_card_le, card_range_of_injective, Fintype.card_range_le]
```

**Comment by sqrt-of-2** [comment]
-awaiting-author

**Comment by ocfnash** [comment]
Thanks!

bors merge
